US07960409B2
Step 2: 4-ethynyltetrahydropyran-4-ol
To a solution of 4-{(trimethylsilyl)ethynyl}tetrahydropyran-4-ol (1.0 g, 5.04 mmol) in THF (SnL), a 1 M solution of tetrabutyl ammonium fluoride in THF (5.29 mL, 5.29 mmol) was added and the reaction was stirred 2 hours at room temperature. The reaction mixture was then poured into an aqueous 5% NH4OAc solution and diluted with ethyl acetate. The isolated organic layer was washed with brine, dried over MgSO4, filtered and concentrated. The crude residue obtained was used as such for the next step. 1H NMR (400 MHz, acetone-d6): 4.61 (s, 1H), 3.87-3.77 (m, 2H), 3.60-3.50 (m, 2H), 2.98 (s, 1H), 1.89-1.81 (m, 2H), 1.77-1.65 (m, 2H).

reactant | 4-{(trimethylsilyl)ethynyl}tetrahydropyran-4-ol | 5.04 mmol, 1.0 g | C[Si](C)(C)C#CC1(CCOCC1)O | C10H18O2Si
reactant | tetrabutyl ammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 5.29 mmol, 5.29 mL | C1CCOC1 | C4H8O
product | 4-ethynyltetrahydropyran-4-ol | C(#C)C1(CCOCC1)O | C7H10O2
